US06822100B2
To a −78° C. solution of oxalyl chloride (52 μL, 0.60 mmol) in anhydrous dichloromethane (20 ml) was added dimethylsulfoxide (50 μL, 0.70 mmol) dropwise. After stirring 10 min, a solution of cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanemethanol (129 mg, 0.35 mmol) in dichloromethane (5 ml) was added dropwise. After stirring 20 min at −78° C., triethylamine (294 □L, 2.10 mmol) was added dropwise. The reaction was stirred for 5 min at −78° C. and then allowed to warm to room temperature. The reaction was washed with water (2×5 ml), dried with anhydrous magnesium sulfate and the solvent was evaporated to give the crude cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanecarboxaldehyde.

reactant | oxalyl chloride | 0.60 mmol, 52 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.70 mmol, 50 μL | CS(=O)C | C2H6OS
reactant | cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanemethanol | 0.35 mmol, 129 mg | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)CO | C20H18N2O3S
reactant | triethylamine | 2.10 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | cis-2-[5-Cyano-1-(p-toluenesulfonyl)indol-3-yl]cyclopropanecarboxaldehyde | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)[C@@H]1[C@@H](C1)C=O | C20H16N2O3S
